US08114886B2
5-[(2,5-Difluorophenyl)[(4-methylphenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide
5-[(2,5-Difluorophenyl)[(4-methylphenyl)sulfonyl]meth yl]-4-methylpyridine-2-carboxylic acid (208 mg, 0.5 mmol), 2-aminoethanol (46 μl, 0.75 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride mg, 0.75 mmol), 1-hydroxybenzotriazole (68 mg, 0.5 mmol), and triethylamine (209 μl, 1.5 mmol) were dissolved in methylene chloride (35 ml), and the resulting solution was stirred overnight at room temperature. Water was added to the reaction mixture, and the resulting mixture was extracted twice with methylene chloride. The combined organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was purified by preparative thin-layer chromatography (developed with 6% methanol/methylene chloride, eluted with 30% methanol/methylene chloride), to obtain the title compound (125 mg, 0.27 mmol, 54%) as a white amorphous substance.

reactant | 5-[(2,5-Difluorophenyl)[(4-methylphenyl)sulfonyl]meth yl]-4-methylpyridine-2-carboxylic acid | 0.5 mmol, 208 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)C | C21H17F2NO4S
reactant | 2-aminoethanol | 0.75 mmol, 46 μl | NCCO | C2H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.5 mmol, 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.5 mmol, 209 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 5-[(2,5-Difluorophenyl)[(4-methylphenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide | 0.27 mmol, 125 mg, 54% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCCO)C)S(=O)(=O)C1=CC=C(C=C1)C | C23H22F2N2O4S
